US07078414B2
d) 1-(Isoquinol-1-yl)-3-methoxycarbonyl-4-methyl-1H-pyrrole
0.208 g (6.5 mmol) of sodium hydride, at 75% by weight in liquid petroleum jelly, is added at a temperature in the region of 20° C. under an argon atmosphere to a solution of 0.903 g (6.5 mmol) of 3-methoxycarbonyl-4-methyl-1H-pyrrole in 20 mL of dimethylformamide. After stirring at a temperature in the region of 40° C. for 0.3 hour, 1.07 g (6.5 mmol) of 1-chloroisoquinoline and 10 mL of dimethylformamide are added. After stirring at a temperature in the region of 120° C. for 4 hours, the reaction mixture is poured into 200 mL of salt water and then extracted with 100 mL of ethyl acetate. The organic phase is partially concentrated under reduced pressure. 100 mL of salt water are added to the residue, which is then extracted with 50 mL of ethyl acetate. The organic phase is dried over anhydrous magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) to give a solid which is purified by silica gel chromatography [eluent: cyclohexane/dichloromethane/ethyl acetate (60/36/4 by volume)]. After concentrating the fractions under reduced pressure (2.7 kPa), 1.5 g of 1-(isoquinol-1-yl)-3-methoxycarbonyl-4-methyl-1H-pyrrole are obtained. Mass spectrum (EI): m/e 266 (M+.), m/e 235.

reactant | sodium hydride | 6.5 mmol, 0.208 g | [H-].[Na+]
reactant | 3-methoxycarbonyl-4-methyl-1H-pyrrole | 6.5 mmol, 0.903 g | COC(=O)C1=CNC=C1C | C7H9NO2
reactant | 1-chloroisoquinoline | 6.5 mmol, 1.07 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(Isoquinol-1-yl)-3-methoxycarbonyl-4-methyl-1H-pyrrole | C1(=NC=CC2=CC=CC=C12)N1C=C(C(=C1)C)C(=O)OC | C16H14N2O2
